US09212170B2
(2) 4′-{[(6-Hydrazinopyridin-3-yl)methoxy]methyl}biphenyl-2-carbonitrile
4′-{[(6-Chloropyridin-3-yl)methoxy]methyl}biphenyl-2-carbonitrile (1.7 g) and hydrazine monohydrate (3 mL) were suspended in ethanol (8 mL), and the suspension was reacted at 150° C. for 2 hours using a microwave reaction apparatus (Biotage Ltd.). The reaction solution was concentrated under reduced pressure, and the obtained residue was then purified by NH-silica gel column chromatography (Moritex Corporation, elution solvent: ethyl acetate) to obtain the title compound (0.90 g) as a yellow oil (yield: 56%).

reactant | 4′-{[(6-Chloropyridin-3-yl)methoxy]methyl}biphenyl-2-carbonitrile | 1.7 g | ClC1=CC=C(C=N1)COCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C20H15ClN2O
reactant | hydrazine monohydrate | 3 mL | O.NN
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 4′-{[(6-Hydrazinopyridin-3-yl)methoxy]methyl}biphenyl-2-carbonitrile | 0.90 g, yield: 56% | N(N)C1=CC=C(C=N1)COCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C20H18N4O
